US04220798
(g) 9-keto-15-hydroxy-16,16,19-trimethyl-prosta-13,18-dienoic acid, methyl ester
To a solution of 9-ethylenedioxy-15-keto-16,16,19-trimethyl-prosta-13,18-dienoic acid, methyl ester, (5.2 g.) in methanol (40 ml.), 0.89 g of sodium borohydride are gradually added, while the temperature is kept under 35° C. The mixture is stirred for 30 minutes, then diluted with 300 ml. of water and extracted with ethyl acetate (3×100 ml). The organic layer is washed with water to neutrality, dried over Na2SO4 and the solvent is evaporated in vacuo, to obtain a residue (4.9 g) which is suspended in acetic acid 65% (60 ml.) and stirred at room temperature for 60 minutes. The so obtained solution is diluted with water (200 ml.) and extracted with diethyl ether (3×100 ml). The organic phase is washed with an aqueous, saturated solution of NaHCO3, then with water to neutrality, dried over Na2SO4, and the solvent is evaporated in vacuo. The oily residue (4.2 g. is purified by chromatography on SiO2 (400 g.); the eluent is benzene/ethyl acetate (4:1). One gram of 9-keto-15β-hydroxy-16,16,19-trimethyl-prosta-13,18-dienoic acid, methyl ester, 0.5 g. of 9-keto-15α-hydroxy-16,16,19-trimethyl-prosta-13,18-dienoic acid, methyl ester, and 2.1 g. of a mixture of 15α- and 15β-isomers are obtained.

reactant | 9-ethylenedioxy-15-keto-16,16,19-trimethyl-prosta-13,18-dienoic acid, methyl ester | C1OC2[C@H](CCCCCCC(=O)OC)[C@H](CC2OC1)C=CC(C(CC=C(C)C)(C)C)=O | C26H42O5
reactant | sodium borohydride | 0.89 g | [BH4-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | 9-keto-15-hydroxy-16,16,19-trimethyl-prosta-13,18-dienoic acid, methyl ester | 4.9 g | O=C1[C@H](CCCCCCC(=O)OC)[C@H](CC1)C=CC(C(CC=C(C)C)(C)C)O | C24H40O4
